US08486962B2
2-Chloro-5-nitro-benzoic acid (3 g, 14 mmol) was added to a solution of freshly prepared sodium methoxide (from sodium (1.36 g, 56 mmol) in dry methanol (15 ml)) and the reaction was heated to reflux for 12 hr. Methanol was evaporated and the reaction mass diluted with water (25 ml). Conc hydrochloric acid was added until the pH was ˜2. The reaction mixture was stirred at room temperature for 30 min, then the precipitate was filtered and washed with water. Drying at 60-70° C. yielded 2-methoxy-5-nitro benzoic acid (2.4 g, 81%).

reactant | 2-Chloro-5-nitro-benzoic acid | 14 mmol, 3 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium methoxide | 56 mmol, 15 ml, 1.36 g | C[O-].[Na+]
product | 2-methoxy-5-nitro benzoic acid | 2.4 g, 81% | COC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO5
